*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.20e-04[uF]/100[V]
* Murata P/N :GCM2165C2A121JA16
* Property : C = 1.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C2A121JA16 Port1 Port2
C01 Port1 N01 1.20e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 7.52e-11
R03 N02 N03 1.00e-01
C04 N03 N04 3.90e-10
L04 N03 N04 1.82e-11
R04 N03 N04 1.13e+00
C05 N04 N05 9.56e-11
L05 N04 N05 2.43e-11
R05 N04 N05 1.99e+00
C06 N05 N06 1.37e-12
L06 N05 N06 2.29e-10
R06 N05 N06 8.93e+01
C07 N06 Port2 2.14e-12
L07 N06 Port2 1.05e-10
R07 N06 Port2 1.00e+05
.ENDS GCM2165C2A121JA16
